US08981085B2
(R)-tert-Butyl 1-(5-bromo-3-(3-fluoro-4-methoxybenzamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate (150 mg, 0.27 mmol) in DCM (3 mL) was treated with TFA (1 mL), followed by 1M HCl in ether according to the procedure described in Example 62, Step C, to provide (R)—N-(4-(3-aminopiperidin-1-yl)-5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)-3-fluoro-4-methoxybenzamide hydrochloride (90 mg, 63% yield). 1H NMR (400 MHz, D2O) δ 8.20 (s, 1H), 7.67-7.64 (m, 1H), 7.62-7.59 (m, 1H), 7.35 (s, 1H), 7.18-7.14 (m, 1H), 3.84 (s, 3H), 3.46-3.40 (m, 1H), 3.28-3.18 (m, 2H), 3.12-3.09 (m, 2H), 1.79-1.74 (m, 1H), 1.68-1.61 (m, 1H), 1.46-1.30 (m, 2H); LCMS (APCI+) m/z 462, 464 (M+H)+.

reactant | (R)-tert-Butyl 1-(5-bromo-3-(3-fluoro-4-methoxybenzamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate | 0.27 mmol, 150 mg | BrC=1C(=C2C(=NC1)NC=C2NC(C2=CC(=C(C=C2)OC)F)=O)N2C[C@@H](CCC2)NC(OC(C)(C)C)=O | C25H29BrFN5O4
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | HCl | 1M | Cl | ClH
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | (R)—N-(4-(3-aminopiperidin-1-yl)-5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)-3-fluoro-4-methoxybenzamide hydrochloride | 90 mg, 63% yield | Cl.N[C@H]1CN(CCC1)C1=C2C(=NC=C1Br)NC=C2NC(C2=CC(=C(C=C2)OC)F)=O | InChI=1S/C20H21BrFN5O2.ClH/c1-29-16-5-4-11(7-14(16)22)20(28)26-15-9-25-19-17(15)18(13(21)8-24-19)27-6-2-3-12(23)10-27;/h4-5,7-9,12H,2-3,6,10,23H2,1H3,(H,24,25)(H,26,28);1H/t12-;/m1./s1
